US04992574
770 mg of sodium hydride (50% in mineral oil) are treated at room temperature under an argon atmosphere with 5.30 g of ethyl o-(diethoxyphosphinyl)-p-toluate. After stirring for 2 hours 2.55 g of 2-acetyl-6,7,8,9-tetra-hydro-7 7-dimethyl-5H benzocycloheptene, dissolved in small amount of dimethylformamide, are added dropwise. After 2 hours, the reaction mixture is poured on to ice and extracted with diethyl ether. The ethereal extract is washed with water, dried and evaporated. After chromatography on silica gel with petroleum ether (low-boiling)/ ethyl acetate (9:1), there are obtained 3.40 g of ethyl p-[(E)-2-(6,7,8,9-tetrahydro-7,7-dimethyl-5H-benzocyclo-hepten-2-yl)propenyl]benzoate of m.p. 87-°88° (from hexane).

reactant | sodium hydride | 770 mg | [H-].[Na+]
reactant | ethyl o-(diethoxyphosphinyl)-p-toluate | 5.30 g | C(C)OP(=O)(C1=C(C=CC(=C1)C(=O)OCC)C)OCC | C14H21O5P
reactant | 2-acetyl-6,7,8,9-tetra-hydro-7 7-dimethyl-5H benzocycloheptene | 2.55 g | C(C)(=O)C=1C=CC2=C(CCC(CC2)(C)C)C1 | C15H20O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl p-[(E)-2-(6,7,8,9-tetrahydro-7,7-dimethyl-5H-benzocyclo-hepten-2-yl)propenyl]benzoate | 3.40 g | CC1(CCC2=C(CC1)C=C(C=C2)/C(=C/C2=CC=C(C(=O)OCC)C=C2)/C)C | C25H30O2
